US08497281B2
(1H-Benzoimidazol-5-yl)-(cis-2-methyl-4b,5,6,7,8a,9-hexahydro-3-oxa-1,8-diaza-cyclopenta[b]fluoren-8-yl)-methanone
(cis-7-Amino-8-hydroxy-2,3,4,4a,9,9a-hexahydro-indeno[2,1-b]pyridin-1-yl)-(1H-benzoimidazol-5-yl)-methanone (0.10 g) in triethyl orthoformate (0.5 mL) is stirred at 60° C. for 2 h. After cooling to room temperature, the mixture is concentrated and the residue is chromatographed on silica gel (dichloromethane/methanol 1:0→7:3) to afford the title compound. Yield: 64% of theory; LC (method 1): tR=2.28 min; Mass spectrum (ESI*): m/z=373 [M+H]+.

reactant | (cis-7-Amino-8-hydroxy-2,3,4,4a,9,9a-hexahydro-indeno[2,1-b]pyridin-1-yl)-(1H-benzoimidazol-5-yl)-methanone | 0.10 g | NC1=C(C=2C[C@@H]3N(CCC[C@@H]3C2C=C1)C(=O)C1=CC2=C(NC=N2)C=C1)O | C20H20N4O2
reactant | triethyl orthoformate | 0.5 mL | C(OCC)(OCC)OCC | C7H16O3
product | (1H-Benzoimidazol-5-yl)-(cis-2-methyl-4b,5,6,7,8a,9-hexahydro-3-oxa-1,8-diaza-cyclopenta[b]fluoren-8-yl)-methanone | Yield: 64% | N1C=NC2=C1C=CC(=C2)C(=O)N2CCC[C@H]1C=3C=C4C(=CC3C[C@@H]21)N=C(O4)C | C22H20N4O2
